US09315458B2
C) 4-cyano-2-hydroxy-3-methylbenzoic acid
To a solution of 4-formyl-3-hydroxy-2-methylbenzonitrile (3.90 g) in DMSO (21.0 mL) were added sodium dihydrogenphosphate (7.26 g) and an aqueous solution (16.0 mL) of sodium chlorite (5.46 g) under ice-cooling, and the mixture was stirred at 17° C. for 16 hr. The reaction mixture was poured into saturated aqueous sodium carbonate solution, and the mixture was extracted with tert-butyl methyl ether. The aqueous layer was acidified with 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (4.00 g: containing DMSO).

reactant | 4-formyl-3-hydroxy-2-methylbenzonitrile | 3.90 g | C(=O)C1=C(C(=C(C#N)C=C1)C)O | C9H7NO2
reactant | sodium dihydrogenphosphate | 7.26 g | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 16.0 mL, 5.46 g | Cl(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMSO | 21.0 mL | CS(=O)C | C2H6OS
product | 4-cyano-2-hydroxy-3-methylbenzoic acid | 4.00 g | C(#N)C1=C(C(=C(C(=O)O)C=C1)O)C | C9H7NO3
